US04769462
Preparation of the intermediate Methyl 2-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]nicotinate
Sodium hydride (0.47 g of a 50% suspension in mineral oil) is reacted with 500 mL dry methanol under nitrogen. To this is added 51.4 g of 5,7-dihydro-alpha-isopropyl-alpha-methyl-5,7-dioxo-6H-pyrrolo [3,4-b]pyridine-6-acetamide and the mixture stired at room temperature overnight. The mixture is concentrated, the residue dissolved in methylene chloride and the solution washed first with 150 mL water followed by 150 mL brine. After drying (Na2SO4), the organic phase is concentrated and the residue crystallized from ether to give 47.85 g of product which is analytically pure mp 108°-145° C. with decomposition.

reactant | Sodium hydride | [H-].[Na+]
reactant | 5,7-dihydro-alpha-isopropyl-alpha-methyl-5,7-dioxo-6H-pyrrolo [3,4-b]pyridine-6-acetamide | 51.4 g | C(C)(C)C(C(=O)N)(N1C(C2=NC=CC=C2C1=O)=O)C | C13H15N3O3
reactant | methanol | 500 mL | CO | CH4O
product | Methyl 2-[(1-carbamoyl-1,2-dimethylpropyl)carbamoyl]nicotinate | 47.85 g | C(N)(=O)C(C(C)C)(C)NC(=O)C1=C(C(=O)OC)C=CC=N1 | C14H19N3O4
